### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Shift/Opposite and CategoryTheory/Shift/Pullback): `CommShift` structures on adjunctions are compatible with opposites and pullbacks

### PR DESCRIPTION
**Pull request by smorel394**
Suppose that we use categories `C` and `D` equiped with a shifts by an additive monoid `A`, functors `F,F' : C ⥤ D`, a functor `G : D ⥤ C`, a natural transformation `τ : F ⟶ F'` and an adjunction `adj` between `F` and `G`.

* For any map of additive monoids `φ : B →+ A`, we define type synonyms `PullbackShift.functor F φ` for `F`, `PullbackShift.natTrans τ φ` for `τ`, and `PullbackShift.adjunction adj φ` for `adj`. We then prove that a `CommShift` structure on `F` (resp. `τ`, resp. `adj`) induces a `CommShift` structure on `PullbackShift.functor F φ` (resp. `PullbackShift.natTrans τ φ`, resp. `PullbackShift.adjunction adj φ` ).

* Similarly, we define type synonyms `OppositeShift.functor A F` for `F.op`, `OppositeShift.natTrans A τ` for `τ.op` and `OppositeShift.adjunction A adj` for `adj.op`, and prove that a `CommShift` structure on `F` (resp. `τ`, resp. `adj`) induces a `CommShift` structure on `OppositeShift.functor A F` (resp. `OppositeShift.natTrans A τ`, resp. `OppositeShift.adjunction A adj` ) for the naive shifts on the opposite categories.

* The point of the second part is to reserve `F.op` etc to carry `CommShift` structures for the modified shift on the opposite categories used in the theory of (pre)triangulated categories. We illustrate this by simplifying the definition of the instance `commShiftOpInt` (a `CommShift ℤ` instance on `F.op` for the modified shifts) in the file `Triangulated.Opposite.Functor`.

- [x] depends on: #20364

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Shift/Opposite.lean [hunk 1]
```diff
@@ -173,4 +180,32 @@ noncomputable def commShiftUnop
 
 end Functor
 
+namespace Adjunction
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Shift/Opposite.lean:183]: There is a useful general statement about natural transformation, and the case of adjunctions follows from it. The structure of the code should be as follows (the definition of the opposite of an adjunction should be fixed...):
```lean
namespace NatTrans

attribute [local instance] Functor.commShiftOp

variable {F} {G : C ⥤ D} [F.CommShift A] [G.CommShift A]

lemma commShift_op (τ : F ⟶ G) [NatTrans.CommShift τ A] :
    NatTrans.CommShift (C := OppositeShift C A) (D := OppositeShift D A) (NatTrans.op τ) A := by
  sorry

end NatTrans

namespace Adjunction

attribute [local instance] Functor.commShiftOp NatTrans.commShift_op

variable {F} {G : D ⥤ C} (adj : F ⊣ G)

-- to be moved to `CategoryTheory.Adjunction.Opposites` as a replacement
-- of the broken `opAdjointOpOfAdjoint` (Note: this definition made
-- sense before #16317 when adjunctions where defined in mathlib with data
-- including the unit, the counit and the `homEquiv`, but now 
-- that the `homEquiv` field has been removed, the following would be
-- much better)
@[simps]
def op : G.op ⊣ F.op where
  unit := NatTrans.op adj.counit
  counit := NatTrans.op adj.unit
  left_triangle_components _ := Quiver.Hom.unop_inj (by simp)
  right_triangle_components _ := Quiver.Hom.unop_inj (by simp)

lemma commShift_op [F.CommShift A] [G.CommShift A]  [adj.CommShift A] :
    Adjunction.CommShift (C := OppositeShift D A) (D := OppositeShift C A)
      adj.op A where
  commShift_unit := by dsimp; infer_instance
  commShift_counit := by dsimp; infer_instance

end Adjunction
```

Comment (smorel394) [reply Mathlib/CategoryTheory/Shift/Opposite.lean:204]: Okay, two questions:
- First, I tried of course to do something similar with pulled back shifts, but I run into annoying problems. I could fix them by adding an `@[ext]` attribute to `Functor.CommShift` and using it to prove lemmas like `Functor.CommShift.id (PullbackShift C φ) = Functor.commShiftPullback φ (𝟭 C)` (and similarly for compositions), however, I am wondering whether there is a simpler way.
- Second, if I understand well you want me to edit the file `CategoryTheory.Adjunction.Opposites` and change the definitions of `opAdjointOpOfAdjoint` (and, I presume, also `adjointOfOpAdjointOp`). However, do you also want to change the names? There are many options for "opposite adjunctions" with a complicated naming scheme (like `adjointUnopOfAdjointOp`, `opAdjointOfUnopAdjoint` etc), so if you change one name wouldn't you need to change all their names?

Comment (joelriou) [reply Mathlib/CategoryTheory/Shift/Opposite.lean:204]: For the second question, we have `Equivalence.op`, so that `Adjunction.op` seems a good name to me, and similarly `Adjunction.unop`. I think we can get rid of the variants `adjointUnopOfAdjointOp` and `opAdjointOfUnopAdjoint` which are basically unused (you may introduce deprecated aliases referring the more relevant new `op` or `unop`). (We probably have these variants because `F.op.unop` was not defeq to `F` in Lean 3, but it is now.) It may be better to do that in a separate PR.

For the first question, I do not have time to look at the details now, but it would be better if we can avoid proving equalities between `Functor.CommShift`s. I am not sure it is relevant, but it may be possible to introduce an isomorphism between two copies of the identity (with different `CommShift`s on it) and show a `NatTrans.CommShift` for it?

Comment (smorel394) [reply Mathlib/CategoryTheory/Shift/Opposite.lean:204]: The problem seems to be that Lean does not think that the identity of `C` and the identity of `PullbackShift C φ` are the same, so this solution might work, yes.

Comment (smorel394) [reply Mathlib/CategoryTheory/Shift/Opposite.lean:204]: #20375

Comment (smorel394) [reply Mathlib/CategoryTheory/Shift/Opposite.lean:204]: I was able to make the thing build without proving equalities between `Functor.CommShift`s and without `erw`, but it's not exactly elegant code. In particular, I have to use `@` versions of lemmas all the time because I need to give instance arguments explicitly. I would be grateful for any tricks that can avoid this.

Comment (joelriou) [reply Mathlib/CategoryTheory/Shift/Opposite.lean:204]: I implicitly suggested the following:
```lean
def PullbackShift.functor : PullbackShift C φ ⥤ PullbackShift D φ := F

variable {F} in
def PullbackShift.natTrans {G : C ⥤ D} (τ : F ⟶ G) :
    PullbackShift.functor φ F ⟶ PullbackShift.functor φ G := τ
```
Then, `Functor.commShiftPullback` (and similarly for `NatTrans`) can be made instances, and the compatibilities with the identity functors and the compositions become:
```lean
variable (C) in
def PullbackShift.natIsoId : 𝟭 (PullbackShift C φ) ≅ PullbackShift.functor φ (𝟭 C) := Iso.refl _

variable {E : Type*} [Category E] [HasShift E B] (G : D ⥤ E) [G.CommShift B] in
def PullbackShift.natIsoComp : PullbackShift.functor φ (F ⋙ G) ≅
    PullbackShift.functor φ F ⋙ PullbackShift.functor φ G := Iso.refl _

instance : NatTrans.CommShift (PullbackShift.natIsoId C φ).hom A where
  comm' a := by
    ext
    simp [PullbackShift.natIsoId, Functor.commShiftPullback_iso_eq]

instance {E : Type*} [Category E] [HasShift E B] {G : D ⥤ E} [G.CommShift B] :
    NatTrans.CommShift (PullbackShift.natIsoComp φ F G).hom A where
  comm' a := by
    sorry
```

Comment (smorel394) [reply Mathlib/CategoryTheory/Shift/Opposite.lean:204]: This is actually what I'm trying at the moment, except I had no idea you implicitly suggested anything. It's still a mess though, needs more work.

Comment (smorel394) [reply Mathlib/CategoryTheory/Shift/Opposite.lean:204]: Or more precisely, I had resigned myself to introducing a type synonym for the functor, but not for the natural transformation. I see that the solution was to "boire le calice jusqu'à la lie"... Of course, to be totally consistent there should be a `PullbackShift.adjunction` carrying the new `CommShift` structure defined at the end, but I'm not sure I want to venture there.

Comment (smorel394) [reply Mathlib/CategoryTheory/Shift/Opposite.lean:204]: Well, I had to write this, but `PullbackShift.adjunction` makes a lot of sense actually. The proof of `Adjunction.commShiftPullback` is now just `dsimp` + `infer_instance`.

File: Mathlib/CategoryTheory/Shift/Pullback.lean [hunk 2]
```diff
@@ -135,37 +158,136 @@ noncomputable def commShiftPullback :
...
+    slice_rhs 3 4 => rw [← G.map_comp, Iso.inv_hom_id_app]
+    simp
+
+end NatTrans
+
+/--
+The adjunction `adj`, seen as an adjunction between `PullbackShift.functor F φ`
+and `PullbackShift.functor G φ`.
+-/
+def PullbackShift.adjunction {F} {G : D ⥤ C} (adj : F ⊣ G) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Shift/Pullback.lean:261]:
```suggestion
@[simps]
def PullbackShift.adjunction {F} {G : D ⥤ C} (adj : F ⊣ G) :
```

File: Mathlib/CategoryTheory/Shift/Opposite.lean [hunk 3]
```diff
@@ -173,4 +180,43 @@ noncomputable def commShiftUnop
...
 end Functor
 
+namespace NatTrans
+
+attribute [local instance] Functor.commShiftOp
+
+variable {F} {G : C ⥤ D} [F.CommShift A] [G.CommShift A]
+
+open Opposite in
+lemma commShift_op (τ : F ⟶ G) [NatTrans.CommShift τ A] :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Shift/Opposite.lean:190]: I believe that the same design which has worked well for the pulled back shift should be also used for the opposite shift. Could you introduce new definitions of `OppositeShift.functor` and `OppositeShift.natTrans`. This will also allow a better definition of the `F.op.CommShift ℤ` instance in https://github.com/leanprover-community/mathlib4/blob/master/Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean

Comment (smorel394) [reply Mathlib/CategoryTheory/Shift/Opposite.lean:190]: Let me make sure that I understand. You want `OppositeShift.functor` etc to be the one that carry the `CommShift` instance for the naïve opposite shift, so that we avoid instance clashes later when `F.op` gets a `CommShift` instance for the "triangulated" opposite shift?

Comment (joelriou) [reply Mathlib/CategoryTheory/Shift/Opposite.lean:190]: Yes.

Comment (smorel394) [reply Mathlib/CategoryTheory/Shift/Opposite.lean]: Okay, I introduced `OppositeShift.functor/natTrans/adjunction` and this does give a shorter definition of `commShiftOpInt`.
(I did not change the doc string at the start of `CategoryTheory.Shift.Opposite`, since I am not sure that the file is stabilized yet.)

File: Mathlib/CategoryTheory/Shift/Opposite.lean [hunk 4]
```diff
@@ -173,4 +200,103 @@ noncomputable def commShiftUnop
...
+instance commShift_op (τ : F ⟶ G) [NatTrans.CommShift τ A] :
+    NatTrans.CommShift (OppositeShift.natTrans A τ) A where
+      shift_comm _ := by
+        ext
+        rw [← cancel_mono (((OppositeShift.functor A F).commShiftIso _ ).inv.app _),
+          ← cancel_epi (((OppositeShift.functor A G).commShiftIso _).inv.app _)]
+        dsimp
+        simp only [assoc, Iso.inv_hom_id_app_assoc, Iso.hom_inv_id_app, Functor.comp_obj,
+          Functor.op_obj, comp_id]
+        exact (op_inj_iff _ _).mpr (NatTrans.shift_app_comm τ _ (unop _))
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Shift/Opposite.lean:219]:
```suggestion
      shift_comm _ := by
    ext
    rw [← cancel_mono (((OppositeShift.functor A F).commShiftIso _ ).inv.app _),
      ← cancel_epi (((OppositeShift.functor A G).commShiftIso _).inv.app _)]
    dsimp
    simp only [assoc, Iso.inv_hom_id_app_assoc, Iso.hom_inv_id_app, Functor.comp_obj,
      Functor.op_obj, comp_id]
    exact (op_inj_iff _ _).mpr (NatTrans.shift_app_comm τ _ (unop _))
```

File: Mathlib/CategoryTheory/Shift/Pullback.lean [hunk 5]
```diff
@@ -135,37 +158,137 @@ noncomputable def commShiftPullback :
...
+instance commShiftPullback (τ : F ⟶ G) [NatTrans.CommShift τ B] :
+    NatTrans.CommShift (PullbackShift.natTrans φ τ) A where
+      shift_comm _ := by
+        ext
+        dsimp [PullbackShift.natTrans]
+        simp only [commShiftPullback_iso_eq φ _ _ _ rfl, Iso.trans_hom, isoWhiskerRight_hom,
+          isoWhiskerLeft_hom, Iso.symm_hom, comp_app, comp_obj, whiskerRight_app, whiskerLeft_app,
+          assoc]
+        rw [← τ.naturality_assoc]
+        simp  [← NatTrans.shift_app_comm_assoc]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Shift/Pullback.lean:208]:
```suggestion
  shift_comm _ := by
    ext
    dsimp [PullbackShift.natTrans]
    simp only [commShiftPullback_iso_eq φ _ _ _ rfl, Iso.trans_hom, isoWhiskerRight_hom,
      isoWhiskerLeft_hom, Iso.symm_hom, comp_app, comp_obj, whiskerRight_app, whiskerLeft_app,
      assoc]
    rw [← τ.naturality_assoc]
    simp  [← NatTrans.shift_app_comm_assoc]
```

File: Mathlib/CategoryTheory/Shift/Opposite.lean [hunk 6]
```diff
@@ -114,18 +120,37 @@ lemma oppositeShiftFunctorAdd'_hom_app :
...
+/--
+The natural transformation `τ`, seen as a natural transformation from `OppositeShift.functor F A`
+to `OppositeShift.functor G A`..
+-/
+def OppositeShift.natTrans {G : C ⥤ D} (τ : F ⟶ G) :
+    OppositeShift.functor A G ⟶ OppositeShift.functor A F where
+  app X := (NatTrans.op τ).app X
+  naturality X Y f := by
+     dsimp [OppositeShift.functor]
+     rw [← op_comp, ← τ.naturality, op_comp]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Shift/Opposite.lean:144]:
```suggestion
    OppositeShift.functor A G ⟶ OppositeShift.functor A F :=
  NatTrans.op τ
```

File: Mathlib/CategoryTheory/Shift/Opposite.lean (hunk 4 above)
Comment (smorel394) [reply Mathlib/CategoryTheory/Shift/Opposite.lean]: Wait, I don't care about indenting myself, but applying this change created the dreaded `expected '{' or indented tactic sequence` error.

Comment (smorel394) [reply Mathlib/CategoryTheory/Shift/Opposite.lean]: The error goes away if I moved line 212 (the `shift_comm _ := by`) four spaces to the left, so I did that,

File: Mathlib/CategoryTheory/Shift/Opposite.lean (hunk 6 above)
Comment (smorel394) [reply Mathlib/CategoryTheory/Shift/Opposite.lean]: `τ.op` did not work but `NatTrans.op τ` does? That's unfair. :(

File: Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean [hunk 7]
```diff
@@ -30,9 +30,7 @@ namespace Pretriangulated.Opposite
 `CategoryTheory.Triangulated.Opposite.Basic`.
 -/
 noncomputable scoped instance commShiftOpInt : F.op.CommShift ℤ := by
-  letI F' : OppositeShift C ℤ ⥤ OppositeShift D ℤ := F.op
-  letI : F'.CommShift ℤ := F.commShiftOp ℤ
-  apply F'.commShiftPullback
+  apply (OppositeShift.functor ℤ F).commShiftPullback
```
[the remark this answers is not in the document]
Comment (smorel394) [reply Mathlib/CategoryTheory/Triangulated/Opposite/Functor.lean]: Ok.

**Comment by joelriou** [comment]
Could you edit the PR description so that it matches more what the PR has become?

bors d+

**Comment by smorel394** [comment]
I think I got confused, I though "bors d+" meant I was authorized to merge myself... Oh well.

**Comment by joelriou** [comment]
I do not know what happened...

bors merge
